US05134111
(b) (E)-1-[3-(5-ethyl-4-hydroxy-3-methoxy-1-naphthyl)-1-oxo-2-propenyl]piperidine
960 mg of (E)-1-[3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-1-oxo-2-propenyl]piperidine was dissolved in 50 ml of acetone, to which 1 ml of concentrated hydrochloric acid was gradually added at room temperature. After stirring at room temperature for 5 hours, the reaction mixture was slowly poured into water. The resultant crystals were collected by filtration, washed with water and dried to obtain 760 mg of the titled compound as yellow crystals.

reactant | (E)-1-[3-(5-ethyl-3-methoxy-4-methoxymethoxy-1-naphthyl)-1-oxo-2-propenyl]piperidine | 960 mg | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C=C/C(=O)N1CCCCC1)OC)OCOC | C23H29NO4
reactant | water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | (E)-1-[3-(5-ethyl-4-hydroxy-3-methoxy-1-naphthyl)-1-oxo-2-propenyl]piperidine | 760 mg | C(C)C1=C2C(=C(C=C(C2=CC=C1)/C=C/C(=O)N1CCCCC1)OC)O | C21H25NO3
